US08486952B2
2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation H) was reacted as described in Preparation Hr with 3-ethoxypropan-1-amine to afford 2-chloro-N-(3-ethoxypropyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Hu). LC-MS (M+H)+=350.1.

reactant | 2,4-dichloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)Cl | C13H9Cl2FN2
reactant | 3-ethoxypropan-1-amine | C(C)OCCCN | C5H13NO
product | 2-chloro-N-(3-ethoxypropyl)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)NCCCOCC | C18H21ClFN3O
